US09108969B2
Preparation of 2-(7-(4-Methoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 35)
From tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate and 4-(chloromethyl)-1-methoxy-2-(trifluoromethyl)benzene, the title compound was prepared using a similar method to the one described in Example 1.48, Step B. LCMS m/z=420.1 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 2.31-2.39 (m, 1H), 2.50 (dd, J=16.3, 9.9 Hz, 1H), 2.75 (dd, J=16.3, 4.4 Hz, 1H), 2.83-2.93 (m, 1H), 3.59-3.67 (m, 1H), 3.85 (s, 3H), 3.95-4.05 (m, 2H), 4.06-4.14 (m, 2H), 5.30 (s, 1H), 6.67-6.74 (m, 2H), 6.86 (d, J=8.6 Hz, 1H), 7.08 (d, J=8.5 Hz, 1H), 7.28 (d, J=2.0 Hz, 1H), 7.43 (d, J=2.0 Hz, 1H).

reactant | tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | 4-(chloromethyl)-1-methoxy-2-(trifluoromethyl)benzene | ClCC1=CC(=C(C=C1)OC)C(F)(F)F | C9H8ClF3O
product | 2-(7-(4-Methoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | COC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C22H20F3NO4
